US07109148B2
To a mixture of 0.18 g of 3-hydroxy-2-{1-(methoxycarbonyl)ethoxy}pyridine, 0.19 g of 2,5-difluoro-4-[3-methyl-2,6-dioxo-4-(trifluoromethyl)-1,2,3,6-tetrahydropyrimidin-1-yl]nitrobenzene, and 2.0 ml of N,N-dimethylformamide was added 90 mg of potassium carbonate, and the mixture was stirred at 70° C. for 3 hours. The reaction mixture was cooled to room temperature and then poured into ice water, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated aqueous sodium chloride solution, dried over anhydrous magnesium sulfate, and then concentrated. The residue was subjected to silica gel column chromatography to give 0.21 g of 3-{4-fluoro-5-[3-methyl-2,6-dioxo-4-(trifluoromethyl)-1,2,3,6-tetrahydropyrimidin-1-yl]-2-nitrophenoxy}-2-{1-(methoxycarbonyl)ethoxy}pyridine as a mixture of diastereoisomers.

reactant | 3-hydroxy-2-{1-(methoxycarbonyl)ethoxy}pyridine | 0.18 g | OC=1C(=NC=CC1)OC(C)C(=O)OC | C9H11NO4
reactant | 2,5-difluoro-4-[3-methyl-2,6-dioxo-4-(trifluoromethyl)-1,2,3,6-tetrahydropyrimidin-1-yl]nitrobenzene | 0.19 g | FC1=C(C=C(C(=C1)N1C(N(C(=CC1=O)C(F)(F)F)C)=O)F)[N+](=O)[O-] | C12H6F5N3O4
reactant | potassium carbonate | 90 mg | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 2.0 ml | CN(C=O)C | C3H7NO
product | 3-{4-fluoro-5-[3-methyl-2,6-dioxo-4-(trifluoromethyl)-1,2,3,6-tetrahydropyrimidin-1-yl]-2-nitrophenoxy}-2-{1-(methoxycarbonyl)ethoxy}pyridine | 0.21 g | FC1=CC(=C(OC=2C(=NC=CC2)OC(C)C(=O)OC)C=C1N1C(N(C(=CC1=O)C(F)(F)F)C)=O)[N+](=O)[O-] | C21H16F4N4O8
